US09388195B2
C) Production of tert-butyl 4-(2-cyano-2-hydroxyethyl)piperidine-1-carboxylate
To a solution of tert-butyl 4-(2-oxoethyl)piperidine-1-carboxylate (60 g) in diethylether (150 mL) were added a solution of sodium cyanide (32.4 g) in water (100 mL) and concentrated hydrochloric acid (55 mL) by small portions at 0° C. The reaction system was stirred for 4 hr, and the organic layer was washed with brine, dried, and concentrated to give the title compound (67.0 g).

reactant | tert-butyl 4-(2-oxoethyl)piperidine-1-carboxylate | 60 g | O=CCC1CCN(CC1)C(=O)OC(C)(C)C | C12H21NO3
reactant | sodium cyanide | 32.4 g | [C-]#N.[Na+]
solvent | diethylether | 150 mL | C(C)OCC | C4H10O
solvent | water | 100 mL | O | H2O
solvent | hydrochloric acid | 55 mL | Cl | ClH
product | tert-butyl 4-(2-cyano-2-hydroxyethyl)piperidine-1-carboxylate | 67.0 g | C(#N)C(CC1CCN(CC1)C(=O)OC(C)(C)C)O | C13H22N2O3
